US07459451B2
A mixture of 6-chloronicotinaldehyde (1 g), ethyl 3-oxo-3-phenylpropanoate (1.36 g), AcOH (0.04 ml), piperidine (0.028 ml) in benzene (15 ml) was refluxed for 1.5 hours. After cooling, the reaction mixture was diluted with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:2) to give ethyl (2Z)-2-benzoyl-3-(6-chloro-3-pyridyl)acrylate (2.018 g) as a yellow oil.

reactant | 6-chloronicotinaldehyde | 1 g | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | ethyl 3-oxo-3-phenylpropanoate | 1.36 g | O=C(CC(=O)OCC)C1=CC=CC=C1 | C11H12O3
reactant | AcOH | 0.04 ml | CC(=O)O | C2H4O2
reactant | piperidine | 0.028 ml | N1CCCCC1 | C5H11N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | ethyl (2Z)-2-benzoyl-3-(6-chloro-3-pyridyl)acrylate | 2.018 g | C(C1=CC=CC=C1)(=O)/C(/C(=O)OCC)=C/C=1C=NC(=CC1)Cl | C17H14ClNO3
